US06034093
A. [5-(2-Methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide
The title compound is prepared from 3-(3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-benzonitrile hydrochloride as described in EXAMPLE 1, Part E using 5-[2-(methylthio)-pyrimidin-4-yl]thiophene-2-sulfonyl chloride in a place of benzo[b]thiophene-2-sulfonyl chloride. The crude product is obtained as a white solid and is of sufficient purity to be used in the subsequent step.

reactant | 3-(3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-benzonitrile hydrochloride | Cl.N[C@@H]1C(N(CC1)CC=1C=C(C#N)C=CC1)=O
reactant | 5-[2-(methylthio)-pyrimidin-4-yl]thiophene-2-sulfonyl chloride | CSC1=NC=CC(=N1)C1=CC=C(S1)S(=O)(=O)Cl | C9H7ClN2O2S3
reactant | benzo[b]thiophene-2-sulfonyl chloride | S1C2=C(C=C1S(=O)(=O)Cl)C=CC=C2 | C8H5ClO2S2
product | 5-(2-Methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=2SC(=CC2)C2=NC(=NC=C2)SC)=O)C=CC1 | C21H19N5O3S3
